US05459151
4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine-1-carboxylic Acid Methyl Ester
To a stirred solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine (1.00 mmol, 0.275 g) and pyridine (1.65 mmol, 0.130 g; 133 μL) in dry CH2Cl2 (10 mL) at 0° C. was added methyl chloroformate (1.10 mmol, 0.104 g; 85 μL) dropwise over 5 minutes. The resulting solution was warmed to room temperature and stirred for 1 hour. The reaction was diluted with CH2Cl2 (70 mL) and extracted with water (70 mL). The aqueous phase was extracted with CH2Cl2 (70 mL), the combined organics washed with water (70 mL), dried (Na2SO4) and concentrated in vacuo. The crude oil was purified by flash chromatography (SiO2 : 1) CH2Cl2, 2) 5% EtOAc/CH2Cl2) to afford the title compound as a colorless oil (0.190 g, 57%).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine | 1.00 mmol, 0.275 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CCNCC1 | C17H25NO2
reactant | pyridine | 1.65 mmol, 133 μL, 0.130 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 1.10 mmol, 85 μL, 0.104 g | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)piperidine-1-carboxylic Acid Methyl Ester | 0.190 g, 57% | COC(=O)N1CCC(CC1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C19H27NO4
